US04831030
To a mixture of dimethyl malonate (100 g) and 3-nitrobenzonitrile (112 g) in 1,2-dichloroethane (500 ml) was added stannic chloride (177 g) at once with a syringe and refluxed for 1 hour with stirring. The white precipitates were collected by filtration, dissolved in a mixture of acetone (2 l) and water (2 l) and adjusted to pH 9.0 with 20% aqueous sodium hydroxide. The resulting white solid was filtered off, and the filtrate was extracted with methylene chloride (2 l). The extract was washed with saturated aqueous sodium chloride, dried over magnesium sulfate and evaporated in vacuo. The resulting precipitates were recrystallized from a mixture of diethyl ether and methylene chloride to give dimethyl (α-amino-3-nitrobenzylidene)malonate (139.5 g).

reactant | dimethyl malonate | 100 g | C(CC(=O)OC)(=O)OC | C5H8O4
reactant | 3-nitrobenzonitrile | 112 g | [N+](=O)([O-])C=1C=C(C#N)C=CC1 | C7H4N2O2
solvent | 1,2-dichloroethane | 500 ml | ClCCCl | C2H4Cl2
product | dimethyl (α-amino-3-nitrobenzylidene)malonate | 139.5 g | NC(C1=CC(=CC=C1)[N+](=O)[O-])=C(C(=O)OC)C(=O)OC | C12H12N2O6
